US09376427B2
4-(N,N-dimethylamino)pyridine (36.6 g, 0.3 mol) was added to a stirred suspension of 5-chlorothiophene-2-carboxylic acid (16.25 g, 0.1 mol) in dichloromethane (162 ml) at 0-5° C. and the resulting solution was stirred for 10 minutes. A mixture of p-toluenesulfonyl chloride (19.05 g, 0.1 mol) and dichloromethane (50 ml) was added to the above solution at −5° C. The resulting solution was stirred for 1 hour at −5° C. to produce a reaction mass containing the sulfonyl ester intermediate, followed by portion wise addition of 4-[4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl]morpholine-3-one (29.1 g, 0.1 mol, chiral purity: 99.9%). The reaction mixture was stirred for 2 hours at 25-30° C., followed by the addition of water (162 ml) and then stirring for 15 minutes. The separated solid was filtered, washed with dichloromethane (50 ml) and water (100 ml), and the resulting wet material was dried at 80-85° C. for 3 to 5 hours to produce 37.3 g of pure rivaroxaban as a white crystalline solid (Theoretical Yield: 85.6%; Purity by HPLC: 99.9%; and Chiral Purity by HPLC: 99.9%).

reactant | 5-chlorothiophene-2-carboxylic acid | 0.1 mol, 16.25 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | p-toluenesulfonyl chloride | 0.1 mol, 19.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-[4-[(5S)-5-(aminomethyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl]morpholine-3-one | 0.1 mol, 29.1 g | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)N1C(COCC1)=O | C14H17N3O4
reactant | water | 162 ml | O | H2O
catalyst | 4-(N,N-dimethylamino)pyridine | 0.3 mol, 36.6 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 162 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | rivaroxaban | 37.3 g, Yield: 85.6% | C1=CC(=CC=C1N2CCOCC2=O)N3C[C@@H](OC3=O)CNC(=O)C4=CC=C(S4)Cl | C19H18ClN3O5S
